US09257659B2
Step 1: Synthesis of 2-(1-naphthyl)-3,5-dimethylpyrazine (abbreviation: Hdm1npr)
First, into a recovery flask equipped with a reflux pipe were put 2.05 g of 2-chloro-3,5-dimethylpyrazine, 2.48 g of 1-naphthylboronic acid, 1.53 g of sodium carbonate, 0.066 g of bis(triphenylphosphine)palladium(II)dichloride (abbreviation: Pd(PPh3)2Cl2), 15 mL of water, and 15 mL of acetonitrile, and the air in the flask was replaced with argon. This reaction container was subjected to irradiation with microwaves (2.45 GHz, 100 W) for 10 minutes, whereby heating was performed. After that, water was added to this solution, and an organic layer was extracted with dichloromethane. The obtained organic layer was washed with water and dried with magnesium sulfate. After the drying, the solution was filtered. The solvent of this solution was distilled off, and then the obtained residue was purified by silica gel column chromatography using dichloromethane as a developing solvent. Accordingly, Hdm1npr (a light orange powder, 59% yield), which was the substance to be produced, was obtained. Note that the irradiation with microwaves was performed using a microwaves synthesis system (Discover, produced by CEM Corporation). The synthesis scheme of Step 1 is shown in (a-1) below.

reactant | 2-chloro-3,5-dimethylpyrazine | 2.05 g | ClC1=NC=C(N=C1C)C | C6H7ClN2
reactant | 1-naphthylboronic acid | 2.48 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | 1.53 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.066 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
product | 2-(1-naphthyl)-3,5-dimethylpyrazine | 59% yield | C1(=CC=CC2=CC=CC=C12)C1=NC=C(N=C1C)C | C16H14N2
